US03931268
By reaction of 23.4 g. of 4-[(2-methyl-1,2-dicarbobenzoxyhydrazino)-methyl]-benzoyl chloride with 4.85 g. of furfurylamine in a mixture of 8 ml. pyridine and 50 ml. of benzene according to the procedure of Example 4 above, followed by hydrogenolysis of the condensation product with palladium-carbon in methanol, there was obtained 4-[(2-methyl-hydrazino)-methyl]-benzoic acid furfurylamide, the oxalate of which melted at 170°-171° (dec.).

reactant | 4-[(2-methyl-1,2-dicarbobenzoxyhydrazino)-methyl]-benzoyl chloride | CN(N(C(=O)OCC1=CC=CC=C1)CC1=CC=C(C(=O)Cl)C=C1)C(=O)OCC1=CC=CC=C1 | C25H23ClN2O5
reactant | furfurylamine | C(C1=CC=CO1)N | C5H7NO
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | methanol | CO | CH4O
catalyst | palladium-carbon | [C].[Pd]
product | 4-[(2-methyl-hydrazino)-methyl]-benzoic acid furfurylamide | C(C1=CC=CO1)NC(C1=CC=C(C=C1)CNNC)=O | C14H17N3O2
